US09422312B2
Step 2: (3R,3aR,6R,6aR)-6-({5-[4-(4-{[Azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-amino}phenyl)phenyl]-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-2-yl}oxy)-hexahydrofuro[3,2-b]furan-3-ol
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and N-[azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-4-bromoaniline following a procedure analogous to that described for Intermediate 3 (Step 3). LC (method 1): tR=1.12 min; Mass spectrum (ESI+): m/z=712 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | N-[azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-4-bromoaniline | N1(CCC1)S(=NC1=CC=C(C=C1)Br)(=O)C | C10H13BrN2OS
product | (3R,3aR,6R,6aR)-6-({5-[4-(4-{[Azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-amino}phenyl)phenyl]-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-2-yl}oxy)-hexahydrofuro[3,2-b]furan-3-ol | N1(CCC1)S(=O)(C)=NC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C=C2C(=N1)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C)Cl | C34H42ClN5O6SSi
